US07572820B2
1-{[5-(2-Thienyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 23 using 4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-(2-thienyl)-1,2,4-oxadiazole: MS (ES) m/z 375 (M+1).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | 3-(chloromethyl)-5-(2-thienyl)-1,2,4-oxadiazole | ClCC1=NOC(=N1)C=1SC=CC1 | C7H5ClN2OS
product | 1-{[5-(2-Thienyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile | S1C(=CC=C1)C1=NC(=NO1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C17H9F3N4OS
